US08304556B2
A-36c) 3-Methoxy-N-(7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-propionamide
To a mixture of 2-amino-5,6-dihydro-4H-benzothiazol-7-one (3.0 g, 18 mmol) and DBU (5.3 mL, 36 mmol) in 100 mL acetonitrile is added a solution of 1-imidazol-1-yl-3-methoxy-propan-1-one (6.9 g, 45 mmol) in acetonitrile. The reaction mixture is stirred for 15 min at RT and then concentrated under reduced pressure. The residue is poured in water, acidified to pH 5 with 6 M aqueous HCl and the product is extracted with ethyl acetate. The combined organic phases are dried over MgSO4 and concentrated under reduced pressure. Yield: 3.8 g. The product is used in the next step without purification. A-36 is synthesized according to general procedure A1 starting from 3.8 g (15 mmol) A-36c and 6.8 g (24 mmol) A-36b. Yield: 1.23 g.

reactant | 2-amino-5,6-dihydro-4H-benzothiazol-7-one | 18 mmol, 3.0 g | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
reactant | DBU | 36 mmol, 5.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-imidazol-1-yl-3-methoxy-propan-1-one | 45 mmol, 6.9 g | N1(C=NC=C1)C(CCOC)=O | C7H10N2O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-Methoxy-N-(7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-propionamide | COCCC(=O)NC=1SC2=C(N1)CCCC2=O | C11H14N2O3S
